US07767625B2
Preparation of 1-Methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid (3-tert-butyl-2-vinylphenyl)amide
197 mg (1,01 mmol) 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid and 135 mg (1,07 mmol) oxalylic acid chloride are dissolved in 8 ml methylenechloride. The solution is stirred for 3 hours at room temperature in the presence of a catalytic amount of dimethylformamide (DMF). After this the solution is slowly added to a solution consisting of 180 mg (1,01 mmol) 3-tert-butyl-2-vinyl-phenylamine, 155 mg (1,52 mmol) triethylamine and 7 ml methylenechloride. The resulting reaction mixture is then stirred at room temperature for 16 hours. After removal of the solvent in a water jet vacuum, the residue is purified by flash chromatography over silicagel (eluent: hexane/ethylacetate 2:1). This gives 0,27 g 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid (3-tert-butyl-2-vinylphenyl)amide in the form of a colourless solid (m.p. 118-119° C.; 76% of theory).

reactant | 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid | 1,01 mmol, 197 mg | CN1N=C(C(=C1)C(=O)O)C(F)(F)F | C6H5F3N2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 3-tert-butyl-2-vinyl-phenylamine | 1,01 mmol, 180 mg | C(C)(C)(C)C=1C(=C(C=CC1)N)C=C | C12H17N
reactant | triethylamine | 1,52 mmol, 155 mg | C(C)N(CC)CC | C6H15N
solvent | methylenechloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | methylenechloride | 7 ml | C(Cl)Cl | CH2Cl2
product | 1-Methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid (3-tert-butyl-2-vinylphenyl)amide | C(C)(C)(C)C=1C(=C(C=CC1)NC(=O)C=1C(=NN(C1)C)C(F)(F)F)C=C | C18H20F3N3O
